US06136823
Synthesis of 2-Chloro-4-fluoro-5-methylbenzoic Acid
n-Butyllithium (1.69 M hexane solution; 14 ml) was added dropwise to a solution of 5-bromo-4-chloro-2-fluorotoluene (5.6 g) in absolute diethyl ether (100 ml) at -70° C. in a nitrogen gas stream, and the mixture was stirred at the same temperature for 1 hour. Carbon dioxide was blown into the mixture at -70° C. for 30 minutes. The temperature of the reaction mixture was given back to room temperature to conduct stirring for 2 days. Diethyl ether and water were added to the reaction mixture to conduct liquid separation. A water layer was collected, to which concentrated hydrochloric acid was added to acidify the water layer. The water layer was then Extracted with diethyl ether. An organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off to obtain the title compound (3.3 g) as a yellow solid.

reactant | n-Butyllithium | 1.69 M, 14 ml | C(CCC)[Li]
reactant | 5-bromo-4-chloro-2-fluorotoluene | 5.6 g | BrC=1C(=CC(=C(C1)C)F)Cl | C7H5BrClF
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | water | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-Chloro-4-fluoro-5-methylbenzoic Acid | 3.3 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C | C8H6ClFO2
